US07405299B2
Preparation of (5-Iodopyridin-2-yl)-methylene-amine
Add trifluoroacetic acid (3 drops) to a suspension of 2-amino-5-iodopyridine (1.0 g, 4.5 mmol) and paraformaldehyde (1.0 g). Heat the mixture at reflux for 15 h and concentrate. Purification by flash chromatography eluting with ethyl acetate gives 0.8 g (75%) of the title compound as a white solid. ES+ m/e 232.6 (M+1).

reactant | 2-amino-5-iodopyridine | 4.5 mmol, 1.0 g | NC1=NC=C(C=C1)I | C5H5IN2
reactant | paraformaldehyde | 1.0 g | C=O | CH2O
catalyst | trifluoroacetic acid | 3 drops | FC(C(=O)O)(F)F | C2HF3O2
product | (5-Iodopyridin-2-yl)-methylene-amine | 0.8 g, 75% | IC=1C=CC(=NC1)N=C | C6H5IN2
